### PR TITLE
[Merged by Bors] - feat: `to_dual` for `Adjunction`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR uses the new capability of `to_dual` to deal with universe reorderings to tag `Adjunction`.

`Adjunction.ext_counit` is added as the dual of `Adjunction.ext`.

Note: there is a bug in the implementation that stops me from being able to tag `Adjunction.comp`. I'll fix that in a future PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 1]
```diff
@@ -174,31 +174,31 @@ set_option backward.isDefEq.respectTransparency false in
 instance whiskerLeft_counit_iso_of_L_fully_faithful [L.Full] [L.Faithful] :
     IsIso (whiskerLeft L h.counit) := by
   have := h.left_triangle
-  rw [← IsIso.eq_inv_comp] at this
+  erw [hom_comp_eq_id] at this
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean]: I suspect this `rw` has to become an `erw` because `left_triangle`  (and `right_triangle`) are bad, i.e. they are missing associators and unitors in the statement and so are abusing strictness of functor composition and strict unitality.

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean]: The correct form of `left_triangle` would be
```lean
@[to_dual (attr := simp)]
theorem left_triangle :
    whiskerRight adj.unit F ≫ (Functor.associator ..).hom ≫
      whiskerLeft F adj.counit =
    F.leftUnitor.hom ≫ F.rightUnitor.inv := by
  ext; simp
```

and then for the lemmas w/ erw less abusive proofs would be
```lean
instance whiskerLeft_counit_iso_of_L_fully_faithful [L.Full] [L.Faithful] :
    IsIso (whiskerLeft L h.counit) := by
  have := whiskerRight (inv h.unit) L ≫= h.left_triangle
  simp only [← whiskerRight_comp_assoc, IsIso.inv_hom_id, whiskerRight_id', id_comp,
    ← Iso.eq_inv_comp] at this
  rw [this]
  infer_instance

instance whiskerRight_counit_iso_of_L_fully_faithful [L.Full] [L.Faithful] :
    IsIso (whiskerRight h.counit R) := by
  have := whiskerLeft R (inv h.unit) ≫= h.right_triangle
  simp only [Category.assoc,
    ← whiskerLeft_comp_assoc, IsIso.inv_hom_id, whiskerLeft_id', id_comp, Iso.inv_comp_eq] at this
  rw [this]
  infer_instance

instance whiskerLeft_unit_iso_of_R_fully_faithful [R.Full] [R.Faithful] :
    IsIso (whiskerLeft R h.unit) := by
  have := h.right_triangle =≫ (whiskerRight (inv h.counit) R)
  simp only [Category.assoc,
    ← whiskerRight_comp, IsIso.hom_inv_id, whiskerRight_id', comp_id, Iso.comp_inv_eq] at this
  rw [this]
  infer_instance

instance whiskerRight_unit_iso_of_R_fully_faithful [R.Full] [R.Faithful] :
    IsIso (whiskerRight h.unit L) := by
  have := h.left_triangle =≫ whiskerLeft L (inv h.counit)
  simp only [Category.assoc, ← whiskerLeft_comp, IsIso.hom_inv_id, whiskerLeft_id', comp_id,
    ← Iso.eq_comp_inv] at this
  rw [this]
  infer_instance

```

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean]: With this change in left_triangle some proofs in Localization/Adjunction break, but that’s because they use `congr_app adj.left_triangle X` instead of `adj.left_triangle_components X`.

Comment (JovanGerb) [reply Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean]: Should we first make a separate PR with this change? Do you think it will be easy enough?

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean]: Yes, from what I see the breakages should remain minimal (this form of the triangle identity is much less used than the one that has been applied to its components). I should have some time tomorrow evening to make that PR of you want.

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean]: #40139

Comment (JovanGerb) [reply Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean]: Thanks! As a side effect of your change, the `triangle_left` and `triangle_right` are now not dual to each other (due to the associativity), so their types now aren't changed in this PR. So these adaptations are not needed anymore.

**Comment by joelriou** [comment]
Its seems there are no longer `erw` in this PR. Could you update the description?

Thanks again for doing this!

bors d+
